US04581457
(D) N-Ethyl-3-[(2-benzothiazolyl)methoxy]phenyl sulfonamide
To a solution of 3-[(2-benzothiazolyl)methoxy]aniline (2.0 g) and triethylamine (0.79 g) in tetrahydrofuran (50 ml) at room temperature is slowly added a solution of ethane sulfonyl chloride (1.0 g) in tetrahydrofuran. The reaction is stirred for 1 hour. The mixture is filtered through a pad of Celite and silica gel and the solvent is removed in vacuo giving an oil. The oil is purified by HPLC and crystallized from hexane to give 1.4 g (51% yield) of product, m.p. 111°-113° C.

reactant | 3-[(2-benzothiazolyl)methoxy]aniline | 2.0 g | S1C(=NC2=C1C=CC=C2)COC=2C=C(N)C=CC2 | C14H12N2OS
reactant | triethylamine | 0.79 g | C(C)N(CC)CC | C6H15N
reactant | ethane sulfonyl chloride | 1.0 g | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-Ethyl-3-[(2-benzothiazolyl)methoxy]phenyl sulfonamide | 1.4 g, 51% yield | C(C)NS(=O)(=O)C1=CC(=CC=C1)OCC=1SC2=C(N1)C=CC=C2 | C16H16N2O3S2
